US08222274B2
A 400 mg portion of N-(diaminomethylene)-1-[2-(4-fluorophenyl)ethyl]-5-(2-methoxyphenyl)-2-methyl-1H-pyrrole-3-carboxamide was dissolved in 10 ml of dichloromethane, and 3.04 ml of a 1 M boron tribromide dichloromethane solution was added dropwise thereto at −70° C. under an atmosphere of argon, followed by stirring at room temperature for 15 hours. Then, 100 ml of a saturated sodium bicarbonate aqueous solution was added to the reaction solution, followed by three times extractions with 20% methanol/chloroform. After drying the organic layer with anhydrous magnesium sulfate, the solvent was evaporated under a reduced pressure, and the residue was purified by silica gel column chromatography (Chromatorex (registered trademark), methanol:chloroform=10:90-20:80). Then, the resulting product was dissolved in 3 ml of ethyl acetate and, under ice-cooling, 0.132 ml of 4 M hydrogen chloride/ethyl acetate was added, followed by stirring overnight at room temperature. The resulting solid was collected by filtration to obtain 90 mg of N-(diaminomethylene)-1-[2-(4-fluorophenyl)ethyl]-5-(2-hydroxyphenyl)-2-methyl-1H-pyrrole-3-carboxamide hydrochloride as a white solid.

reactant | N-(diaminomethylene)-1-[2-(4-fluorophenyl)ethyl]-5-(2-methoxyphenyl)-2-methyl-1H-pyrrole-3-carboxamide | NC(=NC(=O)C1=C(N(C(=C1)C1=C(C=CC=C1)OC)CCC1=CC=C(C=C1)F)C)N | C22H23FN4O2
reactant | boron tribromide dichloromethane | 1 M | ClCCl.B(Br)(Br)Br
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(diaminomethylene)-1-[2-(4-fluorophenyl)ethyl]-5-(2-hydroxyphenyl)-2-methyl-1H-pyrrole-3-carboxamide hydrochloride | 90 mg | Cl.NC(=NC(=O)C1=C(N(C(=C1)C1=C(C=CC=C1)O)CCC1=CC=C(C=C1)F)C)N | InChI=1S/C21H21FN4O2.ClH/c1-13-17(20(28)25-21(23)24)12-18(16-4-2-3-5-19(16)27)26(13)11-10-14-6-8-15(22)9-7-14;/h2-9,12,27H,10-11H2,1H3,(H4,23,24,25,28);1H
